US04315000
A solution of 3.0 g of 1-β-D-arabinofuranosyl-1,5-dihydro-4H-imidazo[4,5-c]pyridin-4-one, eight ml of acetic anhydride, 150 ml of pyridine, and 50 mg of p-dimethylaminopyridine is stirred at room temperature for 24 hours, evaporated in vacuo, co-evaporated with xylenes, and distributed between water and ethyl acetate. The ethyl acetate layer is washed with saturated NaHCO3 and dried with MgSO4. Removal of the ethyl acetate provides 1-(2,3,5-tri-O-acetyl-β-D-arabinofuranosyl)-1,5-dihydro-4H-imidazo[4,5-c]pyridin-4-one. This is dissolved in 150 ml of dry pyridine, treated with 8.8 g phosphorus pentasulfide, and heated under reflux for 5 hours. The pyridine is removed in vacuo and the residue is treated with water. The precipitate is filtered, washed with water, and recrystallized from ethanol to afford 1-(2,3,5-tri-O-acetyl-β-D-arabinofuranosyl)-1,5-dihydro-4H-imidazo-[4,5-cl]pyridine-4-thione.

reactant | 1-β-D-arabinofuranosyl-1,5-dihydro-4H-imidazo[4,5-c]pyridin-4-one | 3.0 g | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C=NC=2C(NC=CC21)=O | C11H13N3O5
reactant | acetic anhydride | eight ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | p-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2,3,5-tri-O-acetyl-β-D-arabinofuranosyl)-1,5-dihydro-4H-imidazo[4,5-c]pyridin-4-one | C(C)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NC=CC21)=O | C17H19N3O8
